US08729068B2
To a mixture of 43.9 g of methyl 4-[2-(4-aminophenyl)ethyl]benzoate, 22.3 g of cyanoacetic acid, and 150 mL of DMF was added 49.5 g of EDCI/hydrochloride under ice-cooling. After stirring at room temperature for 24 hours, to the reaction mixture was added 450 mL of water at room temperature. After vigorous stirring at room temperature for 30 minutes, the precipitate was collected by filtration to obtain 54.2 g of methyl 4-(2-{4-[(cyanoacetyl)amino]phenyl}ethyl)benzoate as a white solid.

reactant | methyl 4-[2-(4-aminophenyl)ethyl]benzoate | 43.9 g | NC1=CC=C(C=C1)CCC1=CC=C(C(=O)OC)C=C1 | C16H17NO2
reactant | cyanoacetic acid | 22.3 g | C(#N)CC(=O)O | C3H3NO2
reactant | DMF | 150 mL | CN(C)C=O | C3H7NO
reactant | EDCI hydrochloride | 49.5 g | CCN=C=NCCCN(C)C.Cl
solvent | water | 450 mL | O | H2O
product | methyl 4-(2-{4-[(cyanoacetyl)amino]phenyl}ethyl)benzoate | 54.2 g | C(#N)CC(=O)NC1=CC=C(C=C1)CCC1=CC=C(C(=O)OC)C=C1 | C19H18N2O3
